US07253164B2
The [1-(4-methoxy-benzyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid tert-butyl ester (3.35 mmol) obtained in the previous step is dissolved in 7 mL of TFA and heated to reflux for 1.5 hours. After removal of the excess TFA under reduced pressure, acid-base extraction gives the crude (2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid as a yellow solid. Yield: 93%.

reactant | [1-(4-methoxy-benzyl)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid tert-butyl ester | 3.35 mmol | C(C)(C)(C)OC(CC1C(N(C2=CC=CC=C2C1)CC1=CC=C(C=C1)OC)=O)=O | C23H27NO4
solvent | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid | Yield: 93% | O=C1NC2=CC=CC=C2CC1CC(=O)O | C11H11NO3
